US04183923
3β-(3-Methanesulfonyloxy-1-Azetidinyl)-5α-Cholestane
To a stirred suspension of 3.50 g of the mesylate salt of 3-methanesulfonyloxyazetidine (m.p. 111.5°-113° C. dec.) and 5.46 g of 5α-cholestan-3-one in 100 ml of anhydrous methanol maintained at room temperature under a nitrogen atmosphere add 1.74 g sodium cyanoborohydride portionwise over a 20 minute period. Stir for 30 minutes at room temperature, pour into 600 ml water, add to the mixture 100 ml 1.1 M aqueous sodium bicarbonate and extract three times with ethyl ether. Combine the ether extracts, dry over 3 A molecular sieves and remove solvent in vacuo to give a mixture of α- and β-mesylates. Chromatography of this mixture on 150 g Stahl-type silica using ethyl acetate affords the pure title product (slower-moving component), m.p., 135.5° C. dec., [α]D26 =+12.1° (CHCl3, 0.4%).

reactant | 3-methanesulfonyloxyazetidine | CS(=O)(=O)OC1CNC1 | C4H9NO3S
reactant | 5α-cholestan-3-one | 5.46 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O | C27H46O
reactant | sodium cyanoborohydride | 1.74 g | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 600 ml | O | H2O
product | 3β-(3-Methanesulfonyloxy-1-Azetidinyl)-5α-Cholestane | CS(=O)(=O)OC1CN(C1)[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C31H55NO3S
